US05599483
181.4 g (1.0 mol) of dodecylamine, 104.1 g (1.0 mol) of ethyl glycolate and 7.5 g (40 mmol) of a methanol solution containing 28% sodium methylate were fed into a 500-ml four-necked flask equipped with a stirrer and a thermometer. The obtained mixture was stirred under a stream of nitrogen gas, and the temperature thereof was elevated to 100° C. At this temperature, the reaction mixture was stirred for 2 hr while distilling off formed methanol. The obtained reaction mixture was dissolved in 500 ml of ether at room temperature. The ether solution thus obtained was transferred to a separatory funnel, and washed with water. The ether phase was separated, and concentrated. The solid remaining after concentration was dried in a reduced pressure to thereby obtain 182.3 g of white powdery N-dodecylglycolamide (yield: 74.9%). The hydroxyl value of this N-dodecylglycolamide was 229.4 (calculated value: 230.5).

reactant | dodecylamine | 1.0 mol, 181.4 g | C(CCCCCCCCCCC)N | C12H27N
reactant | ethyl glycolate | 1.0 mol, 104.1 g | C(CO)(=O)OCC | C4H8O3
reactant | methanol | 40 mmol, 7.5 g | CO | CH4O
reactant | sodium methylate | C[O-].[Na+]
solvent | ether | 500 ml | CCOCC | C4H10O
product | N-dodecylglycolamide | 182.3 g, yield: 74.9% | C(CCCCCCCCCCC)NC(CO)=O | C14H29NO2
